US07728026B2
[1-(2-Amino-3-carbamoyl-phenylcarbamoyl)-cyclohexyl]-carbamic acid 9H-fluoren-9-ylmethyl ester
A solution of 1-(9H-fluoren-9-ylmethoxycarbonyl amino)-cyclohexanecarboxylic acid (0.326 g, 0.9 mmol) in pyridine (1 mL) and DMF (1 ml) was heated to 40° C. for 30 min. Carbonyl diimidazole (0.15 g, 0.9 mmol) was added and the mixture was stirred at 40° C. for 1 hour then treated with 2,3-diamino-benzamide dihydrochloride (prepared as described in WO0026192, 0.2 g, 0.9 mmol). After stirring for 1 hour at room temperature, isopropyl alcohol (3 ml) was added and the solution was cooled overnight at 0° C. The precipitated solid was filtered, dissolved in water (3 ml), treated with 50% aqueous NaOH (0.071 ml) then stirred for 3 hours at room temperature. The mixture was filtered and used immediately in Example 48B.

reactant | 1-(9H-fluoren-9-ylmethoxycarbonyl amino)-cyclohexanecarboxylic acid | 0.9 mmol, 0.326 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCCCC1)C(=O)O | C22H23NO4
reactant | Carbonyl diimidazole | 0.9 mmol, 0.15 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2,3-diamino-benzamide dihydrochloride | 0.9 mmol, 0.2 g | Cl.Cl.NC1=C(C(=O)N)C=CC=C1N
reactant | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [1-(2-Amino-3-carbamoyl-phenylcarbamoyl)-cyclohexyl]-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1(CCCCC1)C(NC1=C(C(=CC=C1)C(N)=O)N)=O)=O | C29H30N4O4
